US05455258
(D)-leucine (7.1 g, 53.9 mmol) is dissolved in dioxane (60.0 mL) and water (60.0 mL). To this solution is added triethylamine (11.3 mL, 80.9 mmol) and 4-methoxybenzenesulfonyl chloride (12.25 g, 59.3 mmol), and the reaction is stirred at room temperature overnight. The reaction is then diluted with methylene chloride and washed successively with 2.5N hydrochloric acid, water, and brine. The organic phase is dried (Na2SO4), and the solvent is evaporated to give N-[4-methoxybenzenesulfonyl]-(D)-leucine, which is used without further purification.

reactant | (D)-leucine | 53.9 mmol, 7.1 g | N[C@H](CC(C)C)C(=O)O | C6H13NO2
reactant | triethylamine | 80.9 mmol, 11.3 mL | C(C)N(CC)CC | C6H15N
reactant | 4-methoxybenzenesulfonyl chloride | 59.3 mmol, 12.25 g | COC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO3S
solvent | dioxane | 60.0 mL | O1CCOCC1 | C4H8O2
solvent | water | 60.0 mL | O | H2O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | N-[4-methoxybenzenesulfonyl]-(D)-leucine | COC1=CC=C(C=C1)S(=O)(=O)N[C@H](CC(C)C)C(=O)O | C13H19NO5S
